US07176224B2
A mixture 2-(p-tolyloxy)-3-(4-hydroxyphenyl)-2-methyl-propionic acid ethyl ester (0.030 mmol) (see Ex. 35, Part C), toluene-4-sulfonic acid 2-(5-methyl-2-biphenyl-4-yl-oxazol-4-yl)ethyl ester (0.030 mmol) (see Ex. 1, Part I) and 325 mesh K2CO3 (0.084 g, 0.60 mmol) in ethanol (2 mL) was heated to reflux for 24 h under N2. Aqueous 5N NaOH (0.5 mL) and additional ethanol (1 mL) was added to the reaction mixture and it was heated at reflux for an additional 2 h. The reaction was cooled and the solvent removed in vacuo. The residue was acidified with aqueous 1 N HCl (5 mL), extracted with water and CH2Cl2 and the organic layer dried by passing it through a Varian Chem Elut 1003 cartridge. The solvent was removed in vacuo to give 3-{4-[2-(2-biphenyl-4-yl-5-methyl-oxazol-4-yl)-ethoxy]-phenyl}-2-methyl-2-p-tolyloxy-propionic acid. 1H NMR (400 MHz, CDCl3) δ 8.87 (bs, 1H), 8.07 (d, 2H, J=8.6 Hz), 7.72 (d, 2H, J=8.6 Hz), 7.65–7.63 (m, 2H), 7.50–7.38 (m, 3H), 7.19 (d, 2H, J=8.4 Hz), 7.04 (d, 2H, J=8.0 Hz), 6.82 (d, 2H, J=8.4 Hz), 6.80 (d, 2H, J=8.0 Hz), 4.23 (t, 2H, J=6.0 Hz), 3.24 and 3.22 (d of Abq, 2H, J=14.0 Hz), 3.09 (t, 2H, J=6.0 Hz), 2.45 (s, 3H), 2.28 (s, 3H), 1.38 (s, 3H). IR (KBr) 3450, 2924, 1719, 1682, 1509, 1207 cm−1. HRMS (ES+) m/z exact mass calcd for C35H34NO5 548.2437, found 548.2455.

reactant | 2-(p-tolyloxy)-3-(4-hydroxyphenyl)-2-methyl-propionic acid ethyl ester | 0.030 mmol | C(C)OC(C(CC1=CC=C(C=C1)O)(C)OC1=CC=C(C=C1)C)=O | C19H22O4
reactant | toluene-4-sulfonic acid 2-(5-methyl-2-biphenyl-4-yl-oxazol-4-yl)ethyl ester | 0.030 mmol | CC1=C(N=C(O1)C1=CC=C(C=C1)C1=CC=CC=C1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C25H23NO4S
reactant | K2CO3 | 0.60 mmol, 0.084 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaOH | 5N, 0.5 mL | [OH-].[Na+]
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 3-{4-[2-(2-biphenyl-4-yl-5-methyl-oxazol-4-yl)-ethoxy]-phenyl}-2-methyl-2-p-tolyloxy-propionic acid | C1(=CC=C(C=C1)C=1OC(=C(N1)CCOC1=CC=C(C=C1)CC(C(=O)O)(OC1=CC=C(C=C1)C)C)C)C1=CC=CC=C1 | C35H33NO5
